US05569450
Lactic acid (441 g; 4.90 moles) was placed in a reaction flask equipped with a distillation head. Under a nitrogen atmosphere, ethylene diamine (147 g; 2.45 moles) was slowly added with stirring to the reaction flask. During the course of the addition, the reaction mixture turned a deep orange and the temperature reached 140° C. The reaction mixture was then heated at 150° C. overnight with the water being removed by distillation. The reaction mixture was allowed to cool to 125° C. then it was poured into an aluminum pan and allowed to cool to ambient temperature to provide 468 g of crude product. This material was recrystallized from methanol (1.9 L) to provide N,N'-1,2-ethanediylbislactamide, m.p. 188° C.

reactant | Lactic acid | 4.90 moles, 441 g | C(C(O)C)(=O)O | C3H6O3
reactant | ethylene diamine | 2.45 moles, 147 g | C(CN)N | C2H8N2
solvent | water | O | H2O
product | N,N'-1,2-ethanediylbislactamide | C(CNC(C(O)C)=O)NC(C(O)C)=O | C8H16N2O4
